2161-10-14 07:20:00 Physician Resident Progress Note
24 Hour Events:
 EKG - At [**2161-10-13**] 08:55 AM
 EEG - At [**2161-10-13**] 06:40 PM
   Started on dilt gtt and titrated for rate control (dilt at 15)
   BP stable
   Seen by neuro. No EEG as no machine available. Recommended switching
   dilantin to IV
   I/O: -400cc at MN. Bolus for low urine output
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2161-10-13**] 12:30 PM
   Vancomycin - [**2161-10-13**] 08:00 PM
   Ciprofloxacin - [**2161-10-14**] 12:31 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Metoprolol - [**2161-10-13**] 09:59 AM
   Diltiazem - [**2161-10-13**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-14**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 103 (93 - 132) bpm
   BP: 93/64(36) {93/48(36) - 150/91(94)} mmHg
   RR: 26 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.3 kg (admission): 78.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,735 mL
                                                                    537 mL
   PO:
             TF:
                                                                     70 mL
                                                                    170 mL
   IVF:
                                                                  1,666 mL
                                                                    367 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    150 mL
   Urine:
                                                                  1,705 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     30 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 730 (730 - 730) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.34/86/116/28/16
   Ve: 7.9 L/min
   PaO2 / FiO2: 331
   Physical Examination
   Vitals - T: 96.8 BP: 129/64 HR: 123 RR: 20 02 sat: 99% BIPAP FIO2 40%
   GENERAL: NAD, sleepy but arousable, responds to some commands
   HEENT: MMM, unable to assess OP while on BIPAP
   CARDIAC: RRR, no M, 2+ pulses in all four extremities
   LUNG: inspiratory and expiratory wheezes, rhonchi bilaterally,
   decreased breath sounds at base
   ABDOMEN: some distention, NT, ++BS, firm
   EXT: 3+ pitting edema in feet to mid calf, 1+ in upper extremities
   NEURO: responsive to people standing on left, will squeeze his left
   hand and move toes on both sides, opens eyes to voice, right hand
   withdrawals from pain, no facial droop
   DERM: stage III, ulcer on mid back midline, 5mm deep, 8cm x 5cm with no
   drainage, some granulation tissue at edges
   Labs / Radiology
   501 K/uL
   9.4 g/dL
   120 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.4 mEq/L
   13 mg/dL
   99 mEq/L
   137 mEq/L
   30.6 %
   12.6 K/uL
        [image002.jpg]
                             [**2161-10-13**]  08:18 AM
                             [**2161-10-13**]  08:39 AM
                             [**2161-10-13**]  10:58 AM
                             [**2161-10-13**]  11:21 AM
                             [**2161-10-13**]  05:00 PM
                             [**2161-10-14**]  04:44 AM
   WBC
   12.5
   12.6
   Hct
   31.2
   32
   30.6
   Plt
   501
   501
   Cr
   0.6
   0.6
   TropT
   0.01
   TCO2
   33
   32
   48
   Glucose
   121
   113
   139
   120
   Other labs: PT / PTT / INR:12.9/23.2/1.1, CK / CKMB /
   Troponin-T:42//0.01, Differential-Neuts:75.5 %, Lymph:14.6 %, Mono:8.6
   %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.7 mg/Dl
   [**10-12**] BCX x2 pending
   [**10-12**] UCx negative
   [**10-13**] RPR nonreactive
   [**10-13**] MRSA pending
   PORTABLE CXR
   FINDINGS: Since the previous study earlier on the same date, the NG
   tube is
   unchanged. The left pleural effusion is moderate and unchanged. No new
   consolidation or pneumothorax. Cardiomediastinal silhouette is
   unchanged.
   IMPRESSION:
   No interval change since previous study earlier the same date.
   CT ABD/PELVIS (FINAL)
   IMPRESSION:
   1. Moderately limited study due to patient motion and position. Small
   to
   moderate amount of ascites, increased in extent from prior study, with
   slight
   nodular appearance of the peritoneal fat in the left upper quadrant,
   more
   likely related to the ascites rather than representing peritoneal
   deposits.
   2. Moderate-sized left pleural effusion, with associated
   consolidation/atelectasis of the adjacent lung, similar in size to
   prior
   study.
   3. Circumferential bladder wall thickening. Recommend correlation with
   urinalysis, as findings could be due to cystitis, although bladder not
   fully
   distended.
   4. Diffusely osteopenic bones, with multilevel degenerative changes and
   multiple wedge compression deformities of the lumbar spine.
   CT HEAD ( FINAL)
   FINDINGS: The study is significantly limited by motion artifacts
   despite
   multiple repeated scans. There is unchanged hyperdensity in the globus
   pallidus, mostly on the left but also slightly on the right, which is
   most
   consistent with mineralization. There is no evidence of acute
   hemorrhage,
   edema, or mass effect. Moderate cerebral atrophy and severe cerebellar
   atrophy are again seen.
   IMPRESSION:
   Study significantly limited due to patient motion. No evidence of acute
   hemorrhage or other acute abnormalities. High density in the left
   globus
   pallidus most likely represents mineralization.
   Assessment and Plan
   78 yo m with hx of CVA, Afib, and recurrent PNAs who was admitted after
   an episode of decreased responsiveness at his NH, now with concern for
   PNA and afib with RVR.
   .
   # Tachypnea/Possible PNA: On review of CXRs appears that LLL
   effusion/infiltrate has been persistent and appears unchanged.  SOB
   episodes likely due to pt
s sensitivity to HR > 110s as he becomes
   tachypneic with increased WOB when HR > 110.
   - dilt gtt for now and metoprolol 25 Q6H, try to uptitrate PO meds with
   goal HR<100s
   - continue ipratropium nebs q6 hours and xopenex q4 hours
   - continue chest PT and suctioning PRN
   - consider repeat chest CT
   - bedside U/S to assess extent of LLL effusion, consider [**Female First Name (un) **]
   - cont vanco/cefe/cipro for HAP coverage x 8 days (day 2)
   - ABGs as needed
   # Afib with RVR: Pt requires large doses of nodal agents for rate
   control. Not on coumadin due to hx of recent GI bleed.
   - dilt gtt for HR <110, will try to titrate off as PO meds restarted
   - restart PO dilt 60mg alternating with 30mg Q6H
   - cont lopressor 25 mg po q6 hours, uptitrate as tolerated by BP
   - ASA 325 mg daily
   - hold coumadin given recent GI bleed
   - monitor on tele
   # Altered Mental Status: at baseline has AMS, but responds yes/no. On
   head CT, appears to atrophy. Now with less reponsiveness. Possible
   causes include CVA (head CT without evidence), seizure (has extensive
   sz hx), and delerium related to infection. Delerium is most likely at
   this time.
   - continue depakote and primidone
   - appreciate neuro recs
   - f/u EEG
   - daily valporic acid level
   - follow up FT4 level
   .
   # C. Diff infection: had a current infection at NH on flagyl, unclear
   where pt is in his tx course
   - will continue PO flagyl while awaiting c. diff results, is on day 14
   of  course today
   - recheck C. diff today
   - monitor stool output
   - c. diff percautions
   # LE edema: chronic, unclear cause
   - contiue home lasix, but will hold if becoming to negative (goal even)
   .
   # Stage III ulcer: chronic ulcer, was seen during last hospitalization
   - wound care consult
   - moitor daily
   - abx as above
   .
   # Colon cancer: had colonsocpy [**9-6**] with mass at 110cm, on bx had high
   grade dyplasia. Unclear depth, since base of growth not bx. Appeared
   malignant on colonscopy. Unclear if his HCP has decided to have staging
   of the cancer or other treatment. Hx of recent GI bleed that was
   attributed to this lesion. No hx of obstruction.
   - discuss with HCP if further staging/tx will be done
   - monitor for obstruction (non seen on CT abd in ER)
   .
   # Nerogenic Bladder: chronic foley, likely from CVA hx, urine with
   positive nitrates and few bacteria but may be colonization
   - continue foley
   - f/u urine cx
   - on abx above that will cover possible UTI
   .
   # Anemia: chronic, being tx with iron, has hx of recent lower GI bleed,
   and dx of colon cancer
   - continue iron supplements
   - monitor stools for blood
   - monitor hct
   ICU Care
   Nutrition: NG / tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-10-13**] 09:42 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Sister is HCP, [**Name (NI) 189**] [**Name (NI) 8882**] [**0-0-**] or
   [**Telephone/Fax (1) 8883**]
   Code status: DNR / DNI
   Disposition: ICU

2161-10-14 10:20:00 Physician Attending Progress Note
Chief Complaint: Tachypnea, altered mental status.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   On dilt drip at 15, and lopressor for A.fib in better control in the
   80s. Given back some IVF overnight, to keep TBB even. Another episode
   of shortness of breath this am, rhonchorous and wheezy on exam received
   nebs without good effect, was tachycardic, received more lopressor and
   work of breathing decreased.
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2161-10-13**] 12:30 PM
   Ciprofloxacin - [**2161-10-14**] 12:31 AM
   Vancomycin - [**2161-10-14**] 08:32 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Metoprolol - [**2161-10-13**] 09:59 AM
   Diltiazem - [**2161-10-13**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2161-10-14**] 08:00 AM
   Lansoprazole (Prevacid) - [**2161-10-14**] 08:00 AM
   Other medications:
   ferrous sulfat, vitamin C, MVI, HISS, vitamin D, colace, primadone,
   Calcium carbonate, simvastatin, depakote, lansoprazole, xopenex nebs,
   ASA 325, metoprolol 25 q6.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-14**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 96 (93 - 132) bpm
   BP: 106/55(67) {93/44(36) - 123/91(94)} mmHg
   RR: 24 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.5 kg (admission): 78.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,735 mL
                                                                  1,067 mL
   PO:
             TF:
                                                                     70 mL
                                                                    285 mL
   IVF:
                                                                  1,666 mL
                                                                    632 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    230 mL
   Urine:
                                                                  1,705 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     30 mL
                                                                    837 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 100%
   ABG: 7.34/86/116/28/16
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress,
   Diaphoretic, pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   transmitted upper respiratory sounds otherwise clear.
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+
   Skin:  Cool
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Increased, slowly opens eyes to command, resting tremor LUE.
   Labs / Radiology
   9.4 g/dL
   501 K/uL
   120 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.4 mEq/L
   13 mg/dL
   99 mEq/L
   137 mEq/L
   30.6 %
   12.6 K/uL
        [image002.jpg]
                             [**2161-10-13**]  08:18 AM
                             [**2161-10-13**]  08:39 AM
                             [**2161-10-13**]  10:58 AM
                             [**2161-10-13**]  11:21 AM
                             [**2161-10-13**]  05:00 PM
                             [**2161-10-14**]  04:44 AM
   WBC
   12.5
   12.6
   Hct
   31.2
   32
   30.6
   Plt
   501
   501
   Cr
   0.6
   0.6
   TropT
   0.01
   TCO2
   33
   32
   48
   Glucose
   121
   113
   139
   120
   Other labs: PT / PTT / INR:12.9/23.2/1.1, CK / CKMB /
   Troponin-T:42//0.01, Differential-Neuts:75.5 %, Lymph:14.6 %, Mono:8.6
   %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.7 mg/dL
   Fluid analysis / Other labs: Valproic acid level 30
   TSH 5.1, FT4 pending.
   RPR non reactive
   Imaging: CXR possibly decreased left pleural left
   Assessment and Plan
 PNEUMONIA, OTHER:
   on empiric Vanco/cefepime/cipro, resend sputum sample. Blood cultures
   pending. If all cultures negative will narrow coverage tomorrow.
 ALTERED MENTAL STATUS (NOT DELIRIUM):
   On continuous EEG with follow read.
 ATRIAL FIBRILLATION (AFIB):
   transition to po diltiazem. Will stagger dosing to minimize hypotensive
   effect. Started on po aspirin.
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE):
   f/u C.diff toxin on empiric flagyl started on [**9-30**] at NH.
 EDEMA, PERIPHERAL
   stable and chronic.
 IMPAIRED SKIN INTEGRITY
   Continue wound care.
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER);
   to be followed up after acute issues resolve.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2161-10-14**] 06:43 AM 40 mL/hour
   Comments: Speech and swallow evaluation
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-10-13**] 09:42 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :[**Hospital **] transfer to floor if able to wean off dilt drip today
   Total time spent: 30minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2161-10-14**] 16:04 ------

2161-10-15 07:35:00 Physician Resident Progress Note
24 Hour Events:
 EKG - At [**2161-10-15**] 12:13 AM
   - in afternoon was off dilt gtt, but then rate increased again and in
   evening became tachypnic with HR in 130s, restarted dilt gtt, change
   dilt to 60mg Q6H, later gave extra dose of lopressor 5mg IV in addition
   to PO metoprolol, ABG was checked and okay, EKG unchanged, gave lasix
   40IV x 1 with little effect, then tried morphine 1 mg for tachypneia
   with no change, 1 mg ativan with no change; while asleep RR improved
   - no BM, increaesd BM meds
   - stopped primidone
   - UO slowed to 15/hr- gave 750ml NS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-10-14**] 07:57 PM
   Cefipime - [**2161-10-15**] 12:00 AM
   Metronidazole - [**2161-10-15**] 12:27 AM
   Ciprofloxacin - [**2161-10-15**] 01:15 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2161-10-14**] 08:00 AM
   Furosemide (Lasix) - [**2161-10-14**] 10:04 PM
   Morphine Sulfate - [**2161-10-14**] 11:15 PM
   Heparin Sodium (Prophylaxis) - [**2161-10-15**] 12:14 AM
   Metoprolol - [**2161-10-15**] 12:14 AM
   Lorazepam (Ativan) - [**2161-10-15**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-15**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 97 (87 - 125) bpm
   BP: 128/84(95) {86/40(52) - 139/98(107)} mmHg
   RR: 31 (18 - 43) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.5 kg (admission): 78.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,909 mL
                                                                  1,816 mL
   PO:
             TF:
                                                                    896 mL
                                                                    440 mL
   IVF:
                                                                  1,562 mL
                                                                  1,326 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    304 mL
   Urine:
                                                                  1,580 mL
                                                                    304 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,329 mL
                                                                  1,512 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.44/47/95.[**Numeric Identifier 252**]/27/6
   PaO2 / FiO2: 238
   Physical Examination
   GENERAL: NAD, sleepy but arousable, responds to some commands
   HEENT: MMM, unable to assess OP while on BIPAP
   CARDIAC: RRR, no M, 2+ pulses in all four extremities
   LUNG: inspiratory and expiratory wheezes, rhonchi bilaterally,
   decreased breath sounds at base
   ABDOMEN: some distention, NT, ++BS, firm
   EXT: 3+ pitting edema in feet to mid calf, 1+ in upper extremities
   NEURO: responsive to people standing on left, will squeeze his left
   hand and move toes on both sides, opens eyes to voice, right hand
   withdrawals from pain, no facial droop
   DERM: stage III, ulcer on mid back midline, 5mm deep, 8cm x 5cm with no
   drainage, some granulation tissue at edges
   Labs / Radiology
   558 K/uL
   9.7 g/dL
   137 mg/dL
   0.6 mg/dL
   27 mEq/L
   5.4 mEq/L
   13 mg/dL
   96 mEq/L
   131 mEq/L
   30.5 %
   17.5 K/uL
        [image002.jpg] Free T4 1.3
                             [**2161-10-13**]  08:18 AM
                             [**2161-10-13**]  08:39 AM
                             [**2161-10-13**]  10:58 AM
                             [**2161-10-13**]  11:21 AM
                             [**2161-10-13**]  05:00 PM
                             [**2161-10-14**]  04:44 AM
                             [**2161-10-14**]  10:06 PM
                             [**2161-10-15**]  02:11 AM
                             [**2161-10-15**]  03:30 AM
   WBC
   12.5
   12.6
   17.5
   Hct
   31.2
   32
   30.6
   30.5
   Plt
   [**Telephone/Fax (3) 8913**]
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   0.01
   TCO2
   33
   32
   48
   33
   Glucose
   121
   113
   139
   120
   150
   137
   Other labs: PT / PTT / INR:12.9/23.2/1.1, CK / CKMB /
   Troponin-T:42//0.01, Differential-Neuts:75.5 %, Lymph:14.6 %, Mono:8.6
   %, Eos:0.8 %, Lactic Acid:1.8 mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.8 mg/dL
   [**10-12**] BCx x 2 NGTD
   [**10-12**] UCx negative
   CXR [**10-14**]
   FINDINGS: The heart is large but unchanged from previous study. The
   lung
   volumes are low with left lower lobe atelectasis seen. There is also a
   small
   left-sided pleural effusion. There is no evidence of pneumothorax
   Assessment and Plan
   78 yo m with hx of CVA, Afib, and recurrent PNAs who was admitted after
   an episode of decreased responsiveness at his NH, now with concern for
   PNA and afib with RVR.
   .
   # Respiratory distress: On review of CXRs appears that LLL
   effusion/infiltrate has been persistent and appears unchanged.  SOB
   episodes likely due to pt
s sensitivity to HR > 110s as he becomes
   tachypneic with increased WOB when HR > 110.  Attempted to wean off
   dilt gtt but pt HR continued to spike >120s and had to restart.  Likely
   flash pulmonary edema.
   - 20mg IV lasix now
   - Liberalize morphine
   - increase dilt gtt, convert metoprolol IV
   - start digoxin for afib
   - continue ipratropium nebs q6 hours and xopenex q4 hours
   - continue chest PT and suctioning PRN
   - cont vanco/cefe/cipro for HAP coverage x 8 days (day 3)
   - ABGs as needed
   - I/O goal -1L
   - Echo
   - EKG
   # Afib with RVR: Very difficult to control. Pt requires large doses of
   nodal agents for rate control. Not on coumadin due to hx of recent GI
   bleed.
   - dilt gtt, dilt po and lopressor po
   - start digoxin today
   - ASA 325 mg daily
   - monitor on tele
   # Leukocytosis: Elevated today 17 from 12 yesterday. Afebrile, but many
   sources including lungs, stool, and wound
   - f/u blood cultures
   - need to get stool culture / c diff today
   - sputum culture
   - monitor fever curve
   - Enema if no stool today
   # Hyponatremia: Hypervolemic
   - [**Hospital1 **] lytes
   # Altered Mental Status: At baseline has AMS, but responds yes/no. On
   head CT, appears to atrophy. Now with less reponsiveness. Possible
   causes include CVA (head CT without evidence), seizure (has extensive
   sz hx), and delerium related to infection.
   - continue depakote
   - appreciate neuro recs
   - f/u EEG
   - daily valporic acid level
   .
   # C. Diff infection: had a current infection at NH on flagyl, pt
   completed 14 days of course yesterday.
   - f/u stool c. diff/ culture
   - monitor stool output
   - c. diff precautions
   # LE edema: chronic, unclear cause
   - continue home lasix
   .
   # Stage III ulcer: chronic ulcer, was seen during last hospitalization
   - wound care recs
   - moitor daily
   - abx as above
   .
   # Colon cancer: had colonsocpy [**9-6**] with mass at 110cm, on bx had high
   grade dyplasia. Unclear depth, since base of growth not bx. Appeared
   malignant on colonscopy. Unclear if his HCP has decided to have staging
   of the cancer or other treatment. Hx of recent GI bleed that was
   attributed to this lesion. No hx of obstruction.
   - discuss with HCP if further staging/tx will be done
   - monitor for obstruction (non seen on CT abd in ER)
   .
   # Neurogenic Bladder: chronic foley, likely from CVA hx, urine with
   positive nitrates and few bacteria but may be colonization. UCx
   negative.
   - continue foley
   - on abx above that will cover possible UTI
   .
   # Anemia: chronic, being tx with iron, has hx of recent lower GI bleed,
   and dx of colon cancer
   - continue iron supplements
   - monitor stools for blood
   - monitor hct
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2161-10-15**] 04:10 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-10-13**] 09:42 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Sister is HCP, [**Name (NI) 189**] [**Name (NI) 8882**] [**0-0-**] or
   [**Telephone/Fax (1) 8883**]
   Code status: DNR / DNI, HCP would prefer to make comfortable will
   further define whether pt. To be CMO later today.
   Disposition: ICU

2161-10-15 09:04:00 Physician Attending Progress Note
Chief Complaint:  Shortness of rbeath
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Continued on dilt drip this am at 15mg/hr, received additional
   metoprolol, also recieved low dose morphine and ativan without good
   effect. Acute worse this am, and gas showed hypercarbia PCO2 of 62, pH
   7.32. Received lasix and solumedrol.
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2161-10-15**] 12:00 AM
   Metronidazole - [**2161-10-15**] 12:27 AM
   Ciprofloxacin - [**2161-10-15**] 01:15 AM
   Vancomycin - [**2161-10-15**] 08:04 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2161-10-14**] 11:15 PM
   Metoprolol - [**2161-10-15**] 12:14 AM
   Lorazepam (Ativan) - [**2161-10-15**] 12:30 AM
   Heparin Sodium (Prophylaxis) - [**2161-10-15**] 08:05 AM
   Furosemide (Lasix) - [**2161-10-15**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-15**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 128 (87 - 128) bpm
   BP: 138/59(78) {86/40(52) - 139/98(107)} mmHg
   RR: 35 (18 - 43) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.5 kg (admission): 78.3 kg
   Height: 66 Inch
             Total In:
                                                                  2,909 mL
                                                                  2,329 mL
   PO:
             TF:
                                                                    896 mL
                                                                    474 mL
   IVF:
                                                                  1,562 mL
                                                                  1,554 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    339 mL
   Urine:
                                                                  1,580 mL
                                                                    339 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,329 mL
                                                                  1,990 mL
   Respiratory support
   O2 Delivery Device: Venti mask , Aerosol-cool
   FiO2: 100% face tent
   SpO2: 89%
   ABG: 7.32/62/106/27/3
   PaO2 / FiO2: 106
   Physical Examination
   General Appearance: In moderate respiratory distress.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), irregular,
   tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: ), prolonged expiratory phase
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+, somewhat inreased from yesterday
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed, opens eyes spontantously
   Labs / Radiology
   9.7 g/dL
   558 K/uL
   137 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.4 mEq/L
   13 mg/dL
   96 mEq/L
   131 mEq/L
   30.5 %
   17.5 K/uL
        [image002.jpg]
                             [**2161-10-13**]  08:18 AM
                             [**2161-10-13**]  08:39 AM
                             [**2161-10-13**]  10:58 AM
                             [**2161-10-13**]  11:21 AM
                             [**2161-10-13**]  05:00 PM
                             [**2161-10-14**]  04:44 AM
                             [**2161-10-14**]  10:06 PM
                             [**2161-10-15**]  02:11 AM
                             [**2161-10-15**]  03:30 AM
                             [**2161-10-15**]  08:29 AM
   WBC
   12.5
   12.6
   17.5
   Hct
   31.2
   32
   30.6
   30.5
   Plt
   [**Telephone/Fax (3) 8913**]
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   0.01
   TCO2
   33
   32
   48
   33
   33
   Glucose
   121
   113
   139
   120
   150
   137
   Other labs: PT / PTT / INR:12.9/23.2/1.1, CK / CKMB /
   Troponin-T:42//0.01, Differential-Neuts:75.5 %, Lymph:14.6 %, Mono:8.6
   %, Eos:0.8 %, Lactic Acid:1.8 mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.8 mg/dL
   Microbiology: now new culture data.
   Assessment and Plan
 Respiratory distress:
   Likely in flash pulmonary edema now, also with significant rhonchi and
   wheezes, significant hypercarbia on ABG. Start lasix iv, goal -1L.
   Attempt trial of Bipap, start steroids 60mg iv q8.
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    low urine output: likely poor forward flow [**3-2**] to Afib with [**Last Name (LF) 1978**], [**First Name3 (LF) 124**]
   diurese to optimize cardiac status. Will check TTE today.
 PNEUMONIA, OTHER:
   on broad spectrum antibiotic coverage, Vanco/cipro/cefepime/falgyl.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   stable. f/u EEG result, likely delirium
 ATRIAL FIBRILLATION (AFIB):
   dilt drip, convert metoprolol to lopressor, start iv dig load
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   f/u stool culture.
 IMPAIRED SKIN INTEGRITY
   continue wound care
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-10-13**] 09:42 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: discussed with Sister HCP.
   [**Name2 (NI) 156**] status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2161-10-16 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - I/O goal - 1 L , + 1 L so gave lasix 60 IV x 1
   - have lasix IV 20 x 1 then 60 x 1 but with not that much UOP
   - started dig loading
   - no new neuro recs, cont keppra and valproic acid
   - TTE completed
   - EEG [**10-14**] with seizures, [**10-15**] EEG pending
   - ABG on noninvasive (7.35/57/75/33) in AM
   - around 2 pm, became more tachypneic, increased WOB, started
   noninvasive (abg 7.21/78/75/33)
   - patient made CMO by HCP, morphine gtt started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2161-10-15**] 08:00 AM
   Cefipime - [**2161-10-15**] 12:20 PM
   Ciprofloxacin - [**2161-10-15**] 02:52 PM
   Vancomycin - [**2161-10-15**] 08:43 PM
   Infusions:
   Morphine Sulfate - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-10-15**] 08:05 AM
   Metoprolol - [**2161-10-15**] 12:21 PM
   Furosemide (Lasix) - [**2161-10-15**] 07:30 PM
   Morphine Sulfate - [**2161-10-16**] 03:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-16**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 96 (79 - 128) bpm
   BP: 95/57(66) {87/38(55) - 142/80(91)} mmHg
   RR: 11 (8 - 40) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.5 kg (admission): 78.3 kg
   Height: 66 Inch
             Total In:
                                                                  3,231 mL
                                                                     79 mL
   PO:
             TF:
                                                                    474 mL
   IVF:
                                                                  2,457 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,574 mL
                                                                    670 mL
   Urine:
                                                                  1,574 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,657 mL
                                                                   -591 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 326 (118 - 700) mL
   PS : 16 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.27/73.[**Numeric Identifier 252**]/104//3
   Ve: 5 L/min
   PaO2 / FiO2: 149
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   558 K/uL
   9.7 g/dL
   118 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.7 mEq/L
   13 mg/dL
   89 mEq/L
   131 mEq/L
   32
   17.5 K/uL
        [image002.jpg]
                             [**2161-10-13**]  11:21 AM
                             [**2161-10-13**]  05:00 PM
                             [**2161-10-14**]  04:44 AM
                             [**2161-10-14**]  10:06 PM
                             [**2161-10-15**]  02:11 AM
                             [**2161-10-15**]  03:30 AM
                             [**2161-10-15**]  08:29 AM
                             [**2161-10-15**]  10:50 AM
                             [**2161-10-15**]  02:00 PM
                             [**2161-10-15**]  08:58 PM
   WBC
   12.6
   17.5
   Hct
   30.6
   30.5
   32
   Plt
   501
   558
   Cr
   0.6
   0.6
   0.6
   TCO2
   48
   33
   33
   33
   33
   35
   Glucose
   139
   120
   150
   137
   118
   Other labs: PT / PTT / INR:12.9/23.2/1.1, CK / CKMB /
   Troponin-T:42//0.01, Differential-Neuts:75.5 %, Lymph:14.6 %, Mono:8.6
   %, Eos:0.8 %, Lactic Acid:1.8 mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   78 yo m with hx of CVA, Afib, and recurrent PNAs who was admitted after
   an episode of decreased responsiveness at his NH, now with concern for
   PNA and afib with RVR.
   .
   # Respiratory distress: Has now been converted to comfort measures only
   is on morphine drip. ? whether he is flashing when his HR gets too
   high. Will treat like flash pulmonary edema with  morphine drip
   - morphine gtt
   - continue chest PT and suctioning PRN
   .
   # Stage III ulcer: chronic ulcer, was seen during last hospitalization
   - wound care recs
   - moitor daily
   - abx as above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-10-15**] 11:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: call out to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2161-10-16**] 12:18 ------

2161-10-16 11:29:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Discussion with family yesterday, prioritized comfort, currently CM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2161-10-15**] 08:00 AM
   Cefipime - [**2161-10-15**] 12:20 PM
   Ciprofloxacin - [**2161-10-15**] 02:52 PM
   Vancomycin - [**2161-10-15**] 08:43 PM
   Infusions:
   Morphine Sulfate - 3 mg/hour
   Other ICU medications:
   Metoprolol - [**2161-10-15**] 12:21 PM
   Furosemide (Lasix) - [**2161-10-15**] 07:30 PM
   Morphine Sulfate - [**2161-10-16**] 09:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-16**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.2
   HR: 103 (79 - 109) bpm
   BP: 122/54(68) {87/38(55) - 122/80(89)} mmHg
   RR: 11 (8 - 37) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.5 kg (admission): 78.3 kg
   Height: 66 Inch
             Total In:
                                                                  3,231 mL
                                                                    129 mL
   PO:
             TF:
                                                                    474 mL
   IVF:
                                                                  2,457 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  1,574 mL
                                                                    685 mL
   Urine:
                                                                  1,574 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,657 mL
                                                                   -556 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 326 (326 - 700) mL
   PS : 16 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 22 cmH2O
   SpO2: 98%
   ABG: 7.27/73.[**Numeric Identifier 252**]/104//3
   Ve: 5 L/min
   PaO2 / FiO2: 149
   Physical Examination Differed
   Labs / Radiology
   9.7 g/dL
   558 K/uL
   118 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.7 mEq/L
   13 mg/dL
   89 mEq/L
   131 mEq/L
   32
   17.5 K/uL
        [image002.jpg]
                             [**2161-10-13**]  11:21 AM
                             [**2161-10-13**]  05:00 PM
                             [**2161-10-14**]  04:44 AM
                             [**2161-10-14**]  10:06 PM
                             [**2161-10-15**]  02:11 AM
                             [**2161-10-15**]  03:30 AM
                             [**2161-10-15**]  08:29 AM
                             [**2161-10-15**]  10:50 AM
                             [**2161-10-15**]  02:00 PM
                             [**2161-10-15**]  08:58 PM
   WBC
   12.6
   17.5
   Hct
   30.6
   30.5
   32
   Plt
   501
   558
   Cr
   0.6
   0.6
   0.6
   TCO2
   48
   33
   33
   33
   33
   35
   Glucose
   139
   120
   150
   137
   118
   Other labs: PT / PTT / INR:12.9/23.2/1.1, CK / CKMB /
   Troponin-T:42//0.01, Differential-Neuts:75.5 %, Lymph:14.6 %, Mono:8.6
   %, Eos:0.8 %, Lactic Acid:1.8 mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
   Continue with morphine, sucitoning for comfort. Transfer to medical
   floor for continued care.
   ICU Care
   20 Gauge - [**2161-10-15**] 11:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only